US07776882B2
Step E: 2-cyano-2-(2-nitro-5-phenoxy-benzyl)-hex-5-enoic acid
2-cyano-2-(2-nitro-5-phenoxy-benzyl)-hex-5-enoic acid ethyl ester (2.84 g, 7.20 mmol) was dissolved in methanol (42 mL). In a separate flask LiOH (1.5 g, 36.0 mmol) was dissolved in water (21 mL). The LiOH solution was added to the methanolic solution containing 2-cyano-2-(2-nitro-5-phenoxy-benzyl)-hex-5-enoic acid ethyl ester and the reaction was allowed to stir at room temperature for 2 hours. Next, 12N HCl (3 mL) was added to the reaction mixture followed by removal of the methanol under reduced pressure. The reaction mixture was poured into a separatory funnel, ethyl acetate was added and the organic layer washed 2 times with 1N HCl and one time with saturated brine solution. The organic layer was separated, dried with sodium sulfate, filtered and the solvent was removed to yield a residue.

reactant | 2-cyano-2-(2-nitro-5-phenoxy-benzyl)-hex-5-enoic acid ethyl ester | 7.20 mmol, 2.84 g | C(C)OC(C(CCC=C)(CC1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-])C#N)=O | C22H22N2O5
reactant | LiOH | 36.0 mmol, 1.5 g | [Li+].[OH-]
reactant | HCl | 12N, 3 mL | Cl | ClH
solvent | methanol | 42 mL | CO | CH4O
solvent | water | 21 mL | O | H2O
product | 2-cyano-2-(2-nitro-5-phenoxy-benzyl)-hex-5-enoic acid | C(#N)C(C(=O)O)(CCC=C)CC1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C20H18N2O5
